US06949542B2
{5-Ethoxy-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester (Example J14) (193 mg, 0.76 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (221 mg, 0.74 mmol) according to the general procedure M. Obtained as an off-white foam (227 mg, 65%).

reactant | (2-amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester | 0.76 mmol, 193 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)N)=O | C13H20N2O3
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 0.74 mmol, 221 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {5-Ethoxy-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C27H29N3O5
